US03968211
N-(p-Chloro-N-cyclohexylbenzimidoyl)-morpholine hydrochloride
To a cold solution of 9.6 gm. (0.096 mole) of phosgene in tetrahydrofuran is added in one portion 19.0 gm. (0.08 mole) of N-cyclohexyl-p-chlorobenzamide. After ten minutes the reaction mixture is allowed to warm to room temperature, stirred overnight, and the mixture concentrated to a solid in vacuo with a bath temperature of 30°. The crude residue is suspended in 250 ml. of acetonitrile, cooled to 0° and treated with a solution of 28.0 gm. (0.32 mole) of morpholine in 100 ml. of acetonitrile. After allowing the reaction mixture to warm to room temperature it is heated at reflux for two hours, concentrated in vacuo to an oil and suspended in ether. A precipitate is collected and shown to be starting material. The filtrate is concentrated in vacuo, the residue taken up in acetone and treated with excess dry HCl in ether. Ether is added to the cloud point and the mixture cooled to give 3.7 gm. (13.5%) m.p. 278°-279°.

reactant | phosgene | 0.096 mole | C(=O)(Cl)Cl | CCl2O
reactant | N-cyclohexyl-p-chlorobenzamide | 0.08 mole | C1(CCCCC1)NC(C1=CC=C(C=C1)Cl)=O | C13H16ClNO
reactant | morpholine | 0.32 mole | N1CCOCC1 | C4H9NO
reactant | acetonitrile | C(C)#N | C2H3N
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | N-(p-Chloro-N-cyclohexylbenzimidoyl)-morpholine hydrochloride | Cl.ClC1=CC=C(C(=NC2CCCCC2)N2CCOCC2)C=C1 | InChI=1S/C17H23ClN2O.ClH/c18-15-8-6-14(7-9-15)17(20-10-12-21-13-11-20)19-16-4-2-1-3-5-16;/h6-9,16H,1-5,10-13H2;1H
